US08304419B2
To a solution of methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate (0.5 g, 2.67 mmol) dissolved in tert-butanol (25 mL) was added 2-methyl-2-butene/2M in THF (20.26 mL, 40.5 mmol). A solution of sodium dihydrogen phosphate monoH2O (2.57 g, 18.66 mmol) and sodium chlorite (2.170 g, 23.99 mmol) in water (25.00 mL) was added dropwise over a period of 15 min. The solution was stirred at RT for 2.5 h. Aqueous citric acid (10 w/w %) was added until a pH of 4-5 was observed. EtOAc (50 mL) was added, the layers separated and the aqueous layer extracted with EtOAc (2×25 mL). The organic layers were combined, dried over sodium sulfate filtered and evaporated. The crude material was triturated with a minimal amount of EtOAc to afford 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid (0.5 g, 92% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 14.4 (br. s., 1H), 12.4 (br. s., 1H) 7.51 (d, 1H) 3.78 (s, 3H). MS: m/z 202.0 (M−1).

reactant | methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate | 2.67 mmol, 0.5 g | ClC1=C(NC=C1C=O)C(=O)OC | C7H6ClNO3
reactant | 2-methyl-2-butene | 2M | CC(C)=CC | C5H10
reactant | THF | 40.5 mmol, 20.26 mL | C1CCOC1 | C4H8O
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 23.99 mmol, 2.170 g | Cl(=O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-butanol | 25 mL | C(C)(C)(C)O | C4H10O
solvent | water | 25.00 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid | 0.5 g, 92% yield | ClC=1C(=CNC1C(=O)OC)C(=O)O | C7H6ClNO4
